US04760161
Step B: 1-[4'-(Hydroxymethyl)-phenyl]-3-phenyl-trans-1-butene
A solution of 1-(4'-carboxyphenyl)-3-phenyl-trans-1-butene (0.35 g, 1.5 mmol) in tetrahydrofuran (25 ml) was added dropwise to a suspension of lithium aluminum hydride (56 mg) in tetrahydrofuran. The reaction was refluxed for 3 hours and cooled to ambient temperature. Excess lithium aluminum hydride was decomposed by the sequential addition of water (0.1 ml), 15% aqueous sodium hydroxide (0.1 ml) and water (0.3 ml). The precipitate was removed by filtration and the filtrate evaporated. The residue was subjected to column chromatography on silica gel (E. Merck No. 7734). Elution with 3:1 hexane-ether afforded pure 1-[4'-(hydroxymethyl)-phenyl]-3-phenyl-trans-1-butene; yield 0.22 g (65%); mass spectrum m/z: 238 (M), 223 (M--CH3).

reactant | 1-(4'-carboxyphenyl)-3-phenyl-trans-1-butene | 1.5 mmol, 0.35 g | C(=O)(O)C1=CC=C(C=C1)\C=C\C(C)C1=CC=CC=C1 | C17H16O2
reactant | lithium aluminum hydride | 56 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.1 ml | O | H2O
reactant | sodium hydroxide | 0.1 ml | [OH-].[Na+]
reactant | water | 0.3 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-[4'-(Hydroxymethyl)-phenyl]-3-phenyl-trans-1-butene | OCC1=CC=C(C=C1)\C=C\C(C)C1=CC=CC=C1 | C17H18O
